US07049468B2
2,5-dimethoxyphenyl-sulfonyl chloride is reacted with 2-chlorobenzylamine in ether at about 25° C. to provide N-(2-chlorobenzyl)-2,5-dimethoxy-phenylsulfonamide.

reactant | 2,5-dimethoxyphenyl-sulfonyl chloride | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | ether | CCOCC | C4H10O
product | N-(2-chlorobenzyl)-2,5-dimethoxy-phenylsulfonamide | ClC1=C(CNS(=O)(=O)C2=C(C=CC(=C2)OC)OC)C=CC=C1 | C15H16ClNO4S
